US07125901B2
To a solution of N-{4-{2-[4-(bromomethyl)phenyl]ethyl}-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl}acetamide (70 mg) in N,N-dimethylformamide (1 ml) was added diformimide sodium salt (13.5 mg), and the mixture was stirred for 10 min at 20° C. To the reaction mixture was added water, the mixture was extracted with ethyl acetate, washed with water twice, dried over magnesium sulfate, and evaporated to give a crude diformimide compound. The diformimide compound was suspended in conc. hydrocloric acid (200 μl), ethanol (2 ml) and methanol (0.5 ml). The reaction mixture was stirred at 20° C. for 3 hrs., then at 50° C. for 3 hrs. The volatails were evaporated. To the residue was added saturated sodium hydrogen carbonate aqueous solution, the mixture was extracted with chloroform, dried over maganesium sulfate and evaporated to give crude N-{4-(2-{4-[aminomethyl]phenyl}ethyl)-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl}acetamide, that was used as crude in the next reaction.

reactant | N-{4-{2-[4-(bromomethyl)phenyl]ethyl}-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl}acetamide | 70 mg | BrCC1=CC=C(C=C1)CCC=1N=C(SC1C1=CC=C(C=C1)S(=O)(=O)C)NC(C)=O | C21H21BrN2O3S2
reactant | sodium | 13.5 mg | [Na] | Na
reactant | water | O | H2O
reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | hydrocloric acid | 200 μl | Cl | ClH
solvent | methanol | 0.5 ml | CO | CH4O
product | N-{4-(2-{4-[aminomethyl]phenyl}ethyl)-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl}acetamide | NCC1=CC=C(C=C1)CCC=1N=C(SC1C1=CC=C(C=C1)S(=O)(=O)C)NC(C)=O | C21H23N3O3S2
